US06900216B2
Propylmagnesium chloride (2M solution in ether; 4.3 ml) was added under nitrogen over 15 minutes to a stirred solution of 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide (2 g) in tetrahydrofuran (25 ml) then the mixture was stirred at ambient temperature for 2.33 hours. Further propylmagnesium chloride (2M solution in ether; 0.5 ml) was added, the mixture was stirred at ambient temperature for 0.5 hours, then water (150 ml) and 5M hydrochloric acid (15 ml) were added. The product was extracted into dichloromethane (3×40 ml), the combined extracts were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by column chromatography over silica using dichloromethane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to leave 1-(4-chlorobenzo[b]thiophen-2-yl)butan-1-one (0.95 g) which was used without further purification.

reactant | Propylmagnesium chloride | 2M, 4.3 ml | C(CC)[Mg]Cl
reactant | 4-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide | 2 g | ClC1=CC=CC=2SC(=CC21)C(=O)N(C)OC | C11H10ClNO2S
reactant | propylmagnesium chloride | 2M, 0.5 ml | C(CC)[Mg]Cl
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | 5M, 15 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorobenzo[b]thiophen-2-yl)butan-1-one | 0.95 g | ClC1=CC=CC=2SC(=CC21)C(CCC)=O | C12H11ClOS
